US07279580B2
3-Bromo-8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridine (0.10 g, 0.36 mmol) and 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (0.15 g, 0.47 mmol) were coupled following the procedure in Example 1 to afford 4-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile as a white amorphous solid (75 mg, 53%): δH (360 MHz, CDCl3) 1.74 (6H, s), 2.09 (1H, s), 7.19 (1H, dd, J 7 and 7), 7.30 (1H, ddd,J 8, 8 and 3), 7.49-7.58 (3H, m), 7.64-7.66 (2H, m), 7.73-7.75 (2H, m), 8.33 (1H, d, J 7); m/z (ES+) 390 (M++H).

reactant | 3-Bromo-8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridine | 0.36 mmol, 0.10 g | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
reactant | 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 0.47 mmol, 0.15 g | FC=1C=C(C(=CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C#N | C19H19BFNO2
product | 4-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile | 75 mg, 53% | FC=1C=C(C(=CC1)C1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C#N | C23H17F2N3O
